US03953460
Sodium hydride (50% oil dispersion, 9.6 g) was added portionwise to a solution of malononitrile (13.21 g) in dry dimethylformamide (150 ml). The mixture was stirred at 0° for 10 minutes and then to it was added dropwise a solution of methyl isothiocyanate (14.62 g) in dimethylformamide, maintaining the reaction temperature below 40°. The dark red solution was stirred for 45 minutes and a solution of methyl iodide (28.4 g) in dimethylformamide (25 ml) was then added. The reaction mixture was stirred vigorously for 20 minutes and then poured on to crushed ice (500 ml). The crude product (26 g, m.p. 115°) was filtered off and taken up in hot ethanol-ether (3:1, 600 ml). Filtration and cooling furnished 1,1-dicyano-2-methylthio-2-methylamino ethylene m.p. 119°-120°. Further recrystallisation from water gave a sample of m.p. 120°-121°.

reactant | Sodium hydride | 9.6 g | [H-].[Na+]
reactant | malononitrile | 13.21 g | C(CC#N)#N | C3H2N2
reactant | methyl isothiocyanate | 14.62 g | CN=C=S | C2H3NS
reactant | methyl iodide | 28.4 g | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1,1-dicyano-2-methylthio-2-methylamino ethylene | C(#N)C(=C(NC)SC)C#N | C6H7N3S
